US07652049B2
To a −78° C. solution of benzyl [(1S)-2-(3,5-difluorophenyl)-1-methyl-2-oxoethyl]carbamate. (1.35 g, 4.23 mmol) in THF (75 mL) was added L-Selectride (6.35 mL of a 1M solution in THF, 6.35 mmol). After stirring at −78° C. for 1 hour, the reaction was poured into 1N HCl (50 mL). The mixture was extracted with EtOAc (2×100 mL). The organic extracts were washed with water and brine (50 mL each), dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (5 to 40% EtOAc/hexanes) afforded benzyl [(1S,2S)-2-(3,5-difluorophenyl)-2-hydroxy-1-methylethyl]carbamate (major product). LCMS=322.3 (M+1)+.

reactant | benzyl [(1S)-2-(3,5-difluorophenyl)-1-methyl-2-oxoethyl]carbamate | FC=1C=C(C=C(C1)F)C([C@H](C)NC(OCC1=CC=CC=C1)=O)=O | C17H15F2NO3
reactant | L-Selectride | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | benzyl [(1S,2S)-2-(3,5-difluorophenyl)-2-hydroxy-1-methylethyl]carbamate | FC=1C=C(C=C(C1)F)[C@@H]([C@H](C)NC(OCC1=CC=CC=C1)=O)O | C17H17F2NO3
